US03952015
The oxetane ring in these macrocycles can be opened, by addition of water as well as of alcohols. For example, acid-catalysed hydrolysis of 2,6,12,15,21-pentaoxa-9,18-diazaspiro[3.18]docosane yields 12,12-bis(hydroxymethyl)-1,4,10,14-tetraoxa-7,17-diazacyclononadecane. ##EQU16##

reactant | 2,6,12,15,21-pentaoxa-9,18-diazaspiro[3.18]docosane | C1OCC12COCCNCCOCCOCCNCCOC2 | C15H30N2O5
reactant | water | O | H2O
product | 12,12-bis(hydroxymethyl)-1,4,10,14-tetraoxa-7,17-diazacyclononadecane | OCC1(COCCNCCOCCOCCNCCOC1)CO | C15H32N2O6
